US05141945
A solution of crude 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one in acetic acid ) 50 ml) and water (15 ml) was stirred at 45° C. for 2 hours and then at 65° C. for 2 hours. After evaporation of the solvent, the residue was diluted with water, neutralized with an aqueous sodium bicarbonate solution, and extracted three times with methylene chloride. The organic layer combined was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification of the residue with silica gel column chromatography (10% methanol-methylene chloride) gave 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.0 g) as crystals.

reactant | 8,9-dihydro-10-methyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]-indol-6(7H)-one | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H33N3O
reactant | water | 15 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.0 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
